US09169217B2
Preparation of benzyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate (Compound 1)
To a solution of 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinic acid (prepared by the methods described in U.S. Pat. No. 7,314,849 B2; 100 milligrams (mg), 0.29 millimoles (mmol)) in tetrahydrofuran (THF; 1 milliliter (mL)) was added carbonyl diimidazole (51 mg, 0.32 mmol). The reaction mixture was stirred at ambient temperature for 30 minutes (min) when carbon dioxide (CO2) evolution ceased. Benzyl alcohol (62 mg, 0.58 mmol) was added, and the reaction mixture was heated in a benchtop microwave at 90° C. for 20 min. The reaction mixture was purified by silica gel chromatography (applied directly to an Isco 40 gram (g) RediSep® column eluting with 0-100% diethyl ether (Et2O) in hexanes) to yield a white solid (147 mg, 78%): mp 132-133° C., 1H NMR (400 MHz, DMSO-d6) δ 7.50-7.33 (m, 6H), 7.29 (dd, J=8.5, 7.1 Hz, 1H), 7.13 (s, 2H), 5.37 (s, 2H), 3.92 (s, 3H); ESIMS m/z 439 ([M+H]+).

reactant | 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinic acid | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)Cl | C13H8Cl2F2N2O3
reactant | carbonyl diimidazole | 0.32 mmol, 51 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | Benzyl alcohol | 0.58 mmol, 62 mg | C(C1=CC=CC=C1)O | C7H8O
solvent | tetrahydrofuran | 1 milliliter | O1CCCC1 | C4H8O
product | benzyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate | 147 mg, 78% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=CC=C1)Cl | C20H14Cl2F2N2O3
